5
L0100 1 0 5.14532930107527E-2
L0201 2 1 5.15539843865076E-2
L0302 3 2 7.84557907845579E-2
L0403 4 3 1.81818181818182E-1
C0105 1 5 7.06040816326531
C0200 2 0 3.38349206349206
C0300 3 0 1.92063492063492
C0400 4 0 1
V0500 5 0 PULSE 0 1 0 0 0 1000 2000 1
.TRAN 40 4E-2 TETA 0.5 1